US09428470B2
B) tert-Butyl 5-(2-tert-butoxy-2-oxoethyl)-3-(3-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
A mixture of tert-butyl 3-(3-(benzyloxy)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate (58.4 g), 10% Pd/C (containing about 55% water, 5.8 g), and methanol (500 mL) was stirred at room temperature for 45 minutes under a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (34.5 g).

reactant | tert-butyl 3-(3-(benzyloxy)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 58.4 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C27H33NO6
catalyst | Pd/C | 5.8 g | [Pd] | Pd
solvent | methanol | 500 mL | CO | CH4O
product | tert-Butyl 5-(2-tert-butoxy-2-oxoethyl)-3-(3-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 34.5 g | C(C)(C)(C)OC(CC1(CC(=NO1)C1=CC(=CC=C1)O)C(=O)OC(C)(C)C)=O | C20H27NO6
